US07915332B2
Preparation of 1-(4-phenoxyphenyl)-2,4,6-triphenylpyridinium Tetrafluoroborate, 28
A 1 L round-bottom flask equipped with a condenser was charged with 2,4,6-triphenyl-pyrylium tetrafluoroborate (50.0 g, 0.126 mole), 4-phenoxyaniline (25.7 g, 0.138 mole) and ethanol (400 mL). The resulting solution was magnetically stirred and refluxed under nitrogen atmosphere for 6 hours. The solution was cooled to room temperature, the condensation product precipitate out as cream color crystal. The crystal was collected by filtration and dried in vacuum oven (100° C.) to give the desired product (68 g, 95% yield). Mp=201.7 C

reactant | 2,4,6-triphenyl-pyrylium tetrafluoroborate | 0.126 mole, 50.0 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-phenoxyaniline | 0.138 mole, 25.7 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 1-(4-phenoxyphenyl)-2,4,6-triphenylpyridinium Tetrafluoroborate | 68 g, 95% yield | F[B-](F)(F)F.O(C1=CC=CC=C1)C1=CC=C(C=C1)[N+]1=C(C=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C35H26NO.BF4/c1-5-13-27(14-6-1)30-25-34(28-15-7-2-8-16-28)36(35(26-30)29-17-9-3-10-18-29)31-21-23-33(24-22-31)37-32-19-11-4-12-20-32;2-1(3,4)5/h1-26H;/q+1;-1
